US05668157
Step 1: 2-[(Bismethanesulfonyl)amino]-5-nitropyridine
A stirred solution of 2-amino-5-nitropyridine (5.0 g, 35.9 mmol) in pyridine (200 ml), under nitrogen, was treated with 15.4 g (88.5 mmol) of methane-sulfonic anhydride and kept at 24° C. for 28.5 hours. It was then poured into ice water. The precipitate was collected by filtration, washed with water, dried and chromatographed on silica gel with 20% EtOAc-hexane. The product was crystallized from EtOAc to give 2.43 g of the titled product, mp 175°-177° C.

reactant | 2-amino-5-nitropyridine | 35.9 mmol, 5.0 g | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
reactant | methane-sulfonic anhydride | 88.5 mmol, 15.4 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 2-[(Bismethanesulfonyl)amino]-5-nitropyridine | 2.43 g | CS(=O)(=O)N(C1=NC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C | C7H9N3O6S2
